US06313116B1
2-(4-tert-Butoxycarbonylpiperazin-1-yl)-4-methoxybenzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide
Starting from 5-amino-1-methyl-1H-pyrazole-4-carbonitrile (119 mg) in dimethyl fonnamide (10 ml), sodium hexamethyldisilazide in tetrahydrofuran (0.97 ml, 1.0 M), 2-(4-tert-butoxycarbonylpiperazin-1-yl)-4-methoxybenzothiazole-7-carboxylic acid 4-nitrophenyl ester (250 mg). Purification by flash chromatography (eluent 5% methanol in dichloromethane) followed by trituration with diethyl ether yielded the title compound as a pale yellow solid (260 mg). TLC Rf 0.48 (ethyl acetate); Mpt 231-232° C.

reactant | 5-amino-1-methyl-1H-pyrazole-4-carbonitrile | 119 mg | NC1=C(C=NN1C)C#N | C5H6N4
reactant | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 2-(4-tert-butoxycarbonylpiperazin-1-yl)-4-methoxybenzothiazole-7-carboxylic acid 4-nitrophenyl ester | 250 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(SC21)N2CCN(CC2)C(=O)OC(C)(C)C)OC | C24H26N4O7S
solvent | tetrahydrofuran | 1.0 M, 0.97 ml | O1CCCC1 | C4H8O
product | 2-(4-tert-Butoxycarbonylpiperazin-1-yl)-4-methoxybenzothiazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide | 260 mg | C(#N)C1=C(N(N=C1)C)NC(=O)C1=CC=C(C=2N=C(SC21)N2CCN(CC2)C(=O)OC(C)(C)C)OC | C23H27N7O4S
